US07091220B2
[[2-(3-Chloro-4-fluoro-phenyl)-1H-indol-3-yl]-(3-phenoxy-phenyl)-methyl]-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 2-(3-chloro-4-fluoro-phenyl)-methyl-1H-indole and (3-phenoxy-benzylidene)-dimethylammonium chloride, which had been prepared in accordance with example 44 from 3-phenoxy-benzaldehyde and dimethylamine.

reactant | 2-(3-chloro-4-fluoro-phenyl)-methyl-1H-indole | ClC=1C=C(C=CC1F)C=1N(C2=CC=CC=C2C1)C | C15H11ClFN
reactant | (3-phenoxy-benzylidene)-dimethylammonium chloride | [Cl-].O(C1=CC=CC=C1)C=1C=C(C=[N+](C)C)C=CC1
reactant | 3-phenoxy-benzaldehyde | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | dimethylamine | CNC | C2H7N
product | [[2-(3-Chloro-4-fluoro-phenyl)-1H-indol-3-yl]-(3-phenoxy-phenyl)-methyl]-amine | ClC=1C=C(C=CC1F)C=1NC2=CC=CC=C2C1C(C1=CC(=CC=C1)OC1=CC=CC=C1)N | C27H20ClFN2O
